US05037828
1-(2-Methoxy-4-hydroxyphenyl)-4-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine
A solution of 4.16 g. (0.02 mole) 1-(2-methoxy-4-hydroxyphenyl)-piperazine and 4.2 g. (0.021 mole) 2,3-epoxypropyl naphthyl ether in 50 ml. isopropanol is heated under reflux for 4 hours, while stirring. The solution is evaporated and the tarry residue obtained is dissolved in methanol. It is acidified with isopropanolic hydrochloric acid and diethyl ether carefully added thereto, an oily product precipitating out which is separated by decanting off. The solution is diluted with acetone. After a short time, the compound begins to crystallise out. When crystallisation is complete, the crystals are filtered off with suction and again recrystallised from methanol/diethyl either. Yield 4.8 g. (50% of theory); m.p. 230°-232° C.

reactant | 1-(2-methoxy-4-hydroxyphenyl)-piperazine | 0.02 mole | COC1=C(C=CC(=C1)O)N1CCNCC1 | C11H16N2O2
reactant | 2,3-epoxypropyl naphthyl ether | 0.021 mole | C1(=CC=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2-Methoxy-4-hydroxyphenyl)-4-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine | COC1=C(C=CC(=C1)O)N1CCN(CC1)CC(COC1=CC=CC2=CC=CC=C12)O | C24H28N2O4
